US08664220B2
Step 1: 5-(4-Bromo-phenyl)-3-methyl-4-(3-phenyl-pyrrolidin-1-ylmethyl)-isoxazole
Prepared according to the procedure described in Example 1, Step 12, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 3-phenyl-pyrrolidine.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 3-phenyl-pyrrolidine | C1(=CC=CC=C1)C1CNCC1 | C10H13N
product | 5-(4-Bromo-phenyl)-3-methyl-4-(3-phenyl-pyrrolidin-1-ylmethyl)-isoxazole | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CN1CC(CC1)C1=CC=CC=C1 | C21H21BrN2O
